US06903118B1
c) 4-{4-[bis-(4-fluorophenyl)-methyl]-piperazin-1-yl}-but-2-inylamine
The reaction of the phthalimide to the amine occurs analogously to Example 21)d): 23.3 g (48 mmol) 2-(4-{4-[bis-(4-fluorophenyl)-methyl]-piperazin-1-yl}-but-2-inyl)-isoindolin-1,3-dione and 4.7 ml (96 mmol) hydrazine.hydrate. The purification occurs by chromatography on silica gel with CHCl3/CH3OH (90/10 to 85/15): Yield 9.8 g (58%).

reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | 2-(4-{4-[bis-(4-fluorophenyl)-methyl]-piperazin-1-yl}-but-2-inyl)-isoindolin-1,3-dione | 48 mmol, 23.3 g | FC1=CC=C(C=C1)C(N1CCN(CC1)CC#CCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)F | C29H25F2N3O2
reactant | hydrazine.hydrate | 96 mmol, 4.7 ml | NN.O
product | 4-{4-[bis-(4-fluorophenyl)-methyl]-piperazin-1-yl}-but-2-inylamine | FC1=CC=C(C=C1)C(N1CCN(CC1)CC#CCN)C1=CC=C(C=C1)F | C21H23F2N3
